US06784182B2
4-[(Pyrid-4-ylamino)methyl]piperidine Dihydrochloride
To a stirred solution of 1-Boc-4-[(pyrid-4-ylamino)methyl]piperidine (1.0 g, 3.43 mmol) in methanol (100 mL) was added HCl (1 M in ether, 34 mL), and the mixture stirred overnight. The solvent was removed in vacuo, and the resudue taken up in water and freeze dried to give the product as a yellow solid (800 mg, 88%).

reactant | 1-Boc-4-[(pyrid-4-ylamino)methyl]piperidine | 3.43 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CNC1=CC=NC=C1 | C16H25N3O2
reactant | HCl | 1 M, 34 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 4-[(Pyrid-4-ylamino)methyl]piperidine Dihydrochloride | 800 mg, 88% | Cl.Cl.N1=CC=C(C=C1)NCC1CCNCC1 | InChI=1S/C11H17N3.2ClH/c1-5-12-6-2-10(1)9-14-11-3-7-13-8-4-11;;/h3-4,7-8,10,12H,1-2,5-6,9H2,(H,13,14);2*1H
